US04654343
1-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]-2-pyrolidinone
To a solution of 2 g of 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine in 400 ml of dichloromethane was added 1.7 ml of diisopropylamine and 1 ml of 4-chlorobutyryl chloride. This solution was stirred for 12 hours, then poured onto 200 ml of saturated aqueous sodium bicarbonate and extracted with 150 ml portions of dichloromethane. The combined extracts were dried and concentrated in vacuo. The residue was dissolved in 200 ml of dimethylformamide and 2.0 g of potassium carbonate was added. This solution was heated to 80° C. for 12 hours, then poured onto 200 ml of water and extracted with 150 ml portions of dichloromethane. The combined extracts were dried, concentrated in vacuo and chromatographed on 300 g of silica gel with dichloromethane-methanol (97:3). The fractions containing the desired product were combined, concentrated in vacuo and the solid recrystalized from dichloromethane-hexane to give 1.67 g of white crystals, mp 235°-237° C.

reactant | 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | 2 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | diisopropylamine | 1.7 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4-chlorobutyryl chloride | 1 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-[3-(3-Methyl-1,2,4-triazolo[4,3-b]pyridazin-6-yl)phenyl]-2-pyrolidinone | 1.67 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)N2C(CCC2)=O | C16H15N5O
